US07432279B2
4-[(3-isopropylphenyl)amino]-6-[(4-methoxybenzyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 6-fluoro-4-[(3-isopropylphenyl)amino]-1,7-naphthyridine-3-carbonitrile was reacted with (4-methoxyphenyl)methanamine. The crude product was purified by flash column chromatography (1% methanol in methylene chloride) to give a yellow solid (0.209 g, 25%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.2 (d, J=6.8 Hz, 6 H) 2.8 (none, 1 H) 2.9 (dq, J=6.9 Hz, 1 H) 3.7 (s, 3 H) 4.4 (d, J=6.3 Hz, 2 H) 6.9 (m, 2 H) 7.1 (m, 2 H) 7.1 (dd, J=4.3, 2.5 Hz, 2 H) 7.3 (m, 4 H) 8.2 (s, 1 H) 8.8 (s, 1 H) 9.6 (s, 1 H)

reactant | 6-fluoro-4-[(3-isopropylphenyl)amino]-1,7-naphthyridine-3-carbonitrile | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=CC=C1)C(C)C | C18H15FN4
reactant | (4-methoxyphenyl)methanamine | COC1=CC=C(C=C1)CN | C8H11NO
product | 4-[(3-isopropylphenyl)amino]-6-[(4-methoxybenzyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.209 g, 25% | C(C)(C)C=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NCC1=CC=C(C=C1)OC)C#N | C26H25N5O
